US09289430B2
1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-amine
Into a 100-mL round bottom flask, was placed a solution of 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (1 g, 3.88 mmol, 1.00 equiv) in methanol (20 mL). The mixture was treated with Pd/C (1 g) and stirred under an atmosphere of hydrogen for 3 h at 25° C. in an oil bath. The solids were filtered out. The resulting mixture was concentrated under vacuum to yield 900 mg of crude product as a white solid.

reactant | 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 3.88 mmol, 1 g, 1.00 equiv | [N+](=O)([O-])C1=NN(C=N1)C1=CC(=CC=C1)C(F)(F)F | C9H5F3N4O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-amine | 900 mg | FC(C=1C=C(C=CC1)N1N=C(N=C1)N)(F)F | C9H7F3N4
